US08975316B2
Preparation of Benzoimidazol-2-yl disulfide
A solution prepared from 10.0 g 2-mercaptobenzoimidazole, 88 g ethanol and 6.68 g 40% aqueous NaOH was mixed with a solution of 8.54 g iodine in 79 g of ethanol. The resulting mixture was filtered, and the collected product was washed with ethanol and dried under vacuum at 70° C.

reactant | 2-mercaptobenzoimidazole | 10.0 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | NaOH | 6.68 g | [OH-].[Na+]
reactant | iodine | 8.54 g | II | I2
solvent | ethanol | 79 g | C(C)O | C2H6O
solvent | ethanol | 88 g | C(C)O | C2H6O
product | Benzoimidazol-2-yl disulfide | N1=C(NC2=C1C=CC=C2)SSC=2NC1=C(N2)C=CC=C1 | C14H10N4S2
